US06559173B1
3-{[5-(5tert-Butyl-2-methyl-furan-3-yl)-2-methyl-2H-pyrazol-3-ylamino]-methylene}-1,3-dihydro-indol-2-one
The named compound is prepared by substituting 5-(5-tert-butyl-2-methyl-furan-3-yl)-2-methyl-2H-pyrazol-3-ylamine for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one (0.100 gms.) is reacted with 0.2377 gms. 5-(5-tert-butyl-2-methyl-furan-3-yl)-2-methyl-2H-pyrazol-3-ylamine by refluxing in tetrahydrofuran (2.5 mL).

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | 0.100 gms | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 5-(5-tert-butyl-2-methyl-furan-3-yl)-2-methyl-2H-pyrazol-3-ylamine | C(C)(C)(C)C1=CC(=C(O1)C)C=1C=C(N(N1)C)N | C13H19N3O
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 3-{[5-(5tert-Butyl-2-methyl-furan-3-yl)-2-methyl-2H-pyrazol-3-ylamino]-methylene}-1,3-dihydro-indol-2-one | C(C)(C)(C)C1=CC(=C(O1)C)C=1C=C(N(N1)C)NC=C1C(NC2=CC=CC=C12)=O | C22H24N4O2
